### PR TITLE
Use ExtHashMap for the interpreter state

### PR DESCRIPTION
**Pull request by math-fehr**
This will allow us to more easily reason about the interpreter state, as we can then use equality between states instead of defining a property for it.

### CODE REVIEW

**Review by tobiasgrosser — APPROVED** [review]
LGTM. A nice modular patch.

File: Veir/Interpreter/Basic.lean [hunk 1]
```diff
@@ -62,6 +62,17 @@ def InterpreterState.getVar? (state : InterpreterState) (var : ValuePtr)
...
+@[ext]
+theorem InterpreterState.ext {state1 state2 : InterpreterState} :
+    (∀ var, state1.getVar? var = state2.getVar? var) →
+    state1 = state2 := by
+  intro h
+  have ⟨state1⟩ := state1; have ⟨state2⟩ := state2
+  simp only [mk.injEq]
+  ext key value
+  simp only [InterpreterState.getVar?] at h
+  grind
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean]:
```suggestion
theorem InterpreterState.ext {s₁ s₂ : InterpreterState} :
    (∀ var, s₁.getVar? var = s₂.getVar? var) →
    s₁ = s₂ := by
  rcases s₁; rcases s₂
  simp only [getVar?, mk.injEq]
  grind
```
a tiny bit tidier

**Review by ineol — APPROVED** [review]

**Comment by ineol** [comment]
Can we still dump the contents of the hashmap even with the extensional version?

**Comment by math-fehr** [comment]
Talked to Leo offline about it, we can find a way to dump it later (it is possible).
